US08791132B2
To a solution of 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzoic acid ethyl ester (800 mg, 2.04 mmol) in 5 mL EtOH was added sodium hydroxide (327 mg, 8.17 mmol, in 5 mL water) and heated to 65° C. After complete conversion of starting material (TLC and LCMS), the EtOH and water were removed under reduced pressure. The crude product was passed through HPLC to yield 600 mg of 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzoic acid. 1H NMR (DMSO, freebase) δ (ppm): 7.79 (d, 2H), 7.29 (s, 1H), 7.17 (d, 2H), 7.09 (s, 1H), 6.88 (d, 1H), 5.5 b (s, 1H), 4.82 (t, 1H), 4.12 (dd, 1H), 4.06 (dd, 1H), 3.44 (s, 2H), 3.16 (s, 2H), 2.71 (d, 1H), 2.56 (m, 2H), 2.36 s (7H). Separation by chiral HPLC provides enantiomers 67a and 67b.

reactant | 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzoic acid ethyl ester | 2.04 mmol, 800 mg | C(C)OC(C1=CC=C(C=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)O)=O | C24H28N2O3
reactant | sodium hydroxide | 8.17 mmol, 5 mL, 327 mg | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzoic acid | 600 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C2=CC=C(C(=O)O)C=C2)CC1 | C22H24N2O3
